US09399044B2
Preparation of 3,4-bis(benzyloxy)benzoic acid
3,4-Dihydroxy benzoic acid, benzyl bromide, and potassium carbonate were dissolved in acetonitrile, and the solution was refluxed for 18 hours. The reaction solution was then cooled to room temperature and filtered. The solution was then concentrated and diluted with hexanes, resulting in a solid that was collected by filtration. The solid was then recrystallized in the mixture of THF and hexanes, giving rise to a pure product.

reactant | 3,4-Dihydroxy benzoic acid | OC=1C=C(C(=O)O)C=CC1O | C7H6O4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 3,4-bis(benzyloxy)benzoic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1OCC1=CC=CC=C1 | C21H18O4
